plaintext
* NMOS Transistor
M1 2 Vin 3 3 NMOS_MODEL

* Resistor
RD 2 4 RD_VALUE

* Voltage Source
VDD 4 0 DC 1.8V

* Models
.model NMOS_MODEL NMOS(Level=1)

* Simulation Control
.control
  run
  .endc

.end